US08609892B2
3-{4-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-ylsulfanyl)-3-methyl-butyl]-benzoylamino}-propionic acid, Isomer 2
The title compound is prepared in a manner substantially similar to Example 358 starting from enantiomerically purified 3-{4-[1-(4-bromo-3,5-dimethyl-phenylsulfanyl)-3-methyl-butyl]-benzoylamino}-propionic acid methyl ester and 4-trifluoromethyl phenyl boronic acid. Isomer 1 MS: 542.2 [M−H]−; Isomer 2 MS: 542.2 [M−H]−.

reactant | 3-{4-[1-(4-bromo-3,5-dimethyl-phenylsulfanyl)-3-methyl-butyl]-benzoylamino}-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C(CC(C)C)SC1=CC(=C(C(=C1)C)Br)C)=O)=O | C24H30BrNO3S
reactant | 4-trifluoromethyl phenyl boronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | 3-{4-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-ylsulfanyl)-3-methyl-butyl]-benzoylamino}-propionic acid | CC1=C(C(=CC(=C1)SC(CC(C)C)C1=CC=C(C(=O)NCCC(=O)O)C=C1)C)C1=CC=C(C=C1)C(F)(F)F | C30H32F3NO3S
